US04252980
63 g of dimethyl sulfate are added within 5 minutes and at 130° C. to 348 g of anhydrous sodium-2-[4'-(4"-trifluoromethyl-phenoxy)-phenoxy]-propionate, suspended in 1,000 ml of xylene. After the addition, stirring of the mixture is continued for 1 hour, the mixture is cooled at 85° C., at said temperature 200 ml of water and 0.5 ml of H3PO4 are added and, for the separation of the inorganic salts, the mixture is stirred for 10 minutes. After separation of the water phase, the xylene is distilled off. 340 g of methyl-2-[4'-(4"-trifluoromethyl-phenoxy)-phenoxy]-propionate are obtained melting at 142° C. under 0.05 torr. According to gas chromatogram the content of pure final product is 99.4%, the residual content of unreacted acid is 0.6%, which corresponds to a yield of 99.4%.

reactant | dimethyl sulfate | 63 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium-2-[4'-(4"-trifluoromethyl-phenoxy)-phenoxy]-propionate | FC(C1=CC=C(OC2=CC=C(OC(C(=O)[O-])C)C=C2)C=C1)(F)F.[Na+]
reactant | water | 200 ml | O | H2O
reactant | H3PO4 | 0.5 ml | OP(=O)(O)O | H3O4P
solvent | xylene | 1,000 ml | C=1(C(=CC=CC1)C)C | C8H10
product | methyl-2-[4'-(4"-trifluoromethyl-phenoxy)-phenoxy]-propionate | 340 g | COC(C(C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)=O | C17H15F3O4
